US05258529
20.00 Grams of the 2-chloro-4-phenyl-1-penten-4-ol were dissolved in 50 g of toluene, and 30.5 g of a 40% sodium hydroxide aqueous solution and 65.57 g of tetra-n-butylammonium bromide were added. The mixture was allowed to react at 50° C. for 30 hours, and then was subjected to separation. The organic phase was washed with water, and the toluene was distilled off under reduced pressure. The resultant oily substance was purified by silica gel column chromatography to give 11.37 g of 4-phenyl-1-pentyn-4-ol; nD21 =1.537 FI-MS m/e 160(M+) (Propargyl compound/allene compound 100.0/0.0).

reactant | 2-chloro-4-phenyl-1-penten-4-ol | ClC(=C)CC(C)(O)C1=CC=CC=C1 | C11H13ClO
reactant | sodium hydroxide | [OH-].[Na+]
solvent | toluene | 50 g | C1(=CC=CC=C1)C | C7H8
catalyst | tetra-n-butylammonium bromide | 65.57 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 4-phenyl-1-pentyn-4-ol | 11.37 g | C1(=CC=CC=C1)C(CC#C)(C)O | C11H12O
